US05210092
Sodium hydride (10 mg) (60% in oil) was added to a stirred solution of 2-butyl-7-methylimidazo[4,5-b]pyridine mg) in dimethyl sulfoxide (5.0 ml) and the mixture was stirred for 30 minutes at ambient temperature. To this mixture was added a solution of 4-ethoxycarbonyl-1-(4-methanesulfonyloxymethylphenyl)-2-(1 -trityl-1H-tetrazol-5-yl)pyrrole (193 mg) in dimethyl sulfoxide (2 ml). The mixture was stirred for 3 hours at ambient temperature and poured into brine. The mixture was extracted with ethyl acetate, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography to afford 2-butyl-3-[4-[4-ethoxycarbonyl-2-(1-trityl-1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine (123 mg) as a colorless viscous oil.

reactant | Sodium hydride | 10 mg | [H-].[Na+]
reactant | 2-butyl-7-methylimidazo[4,5-b]pyridine | C(CCC)C=1NC=2C(=NC=CC2C)N1 | C11H15N3
reactant | 4-ethoxycarbonyl-1-(4-methanesulfonyloxymethylphenyl)-2-(1 -trityl-1H-tetrazol-5-yl)pyrrole | 193 mg | C(C)OC(=O)C=1C=C(N(C1)C1=CC=C(C=C1)COS(=O)(=O)C)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N5O5S
solvent | dimethyl sulfoxide | 5.0 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 2-butyl-3-[4-[4-ethoxycarbonyl-2-(1-trityl-1H-tetrazol-5-yl)-1-pyrrolyl]benzyl]-7-methyl-3H-imidazo[4,5-b]pyridine | 123 mg | C(CCC)C1=NC=2C(=NC=CC2C)N1CC1=CC=C(C=C1)N1C(=CC(=C1)C(=O)OCC)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H42N8O2
